US05659042
Ethyl 6-chloronicotinate
To a slurry of 6-chloronicotinic acid (5.0 g, 31.73 mmol) in anhydrous toluene (35 ml), was added dropwise with stirring triethylorthoacetate (15.45 g, 95.2 mmol). The mixture was warmed to reflux for two hours, allowed to cool to ambient temperature, and then the resultant solution was washed with saturated NaHCO3 solution (50 ml). The organic phase was dried (MgSO4) and the solvent removed in vacuo to afford the titled compound as a clear, colorless oil (5.43 g, 29.27 mmol, 92.3% yield).

reactant | 6-chloronicotinic acid | 31.73 mmol, 5.0 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | triethylorthoacetate | 95.2 mmol, 15.45 g | C(C)C(C([O-])([O-])[O-])(CC)CC
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 6-chloronicotinate | ClC1=NC=C(C(=O)OCC)C=C1 | C8H8ClNO2
